US06329389B1
1-[2-(R)-Amino-3-(indol-3-yl)propanoyl]-3-(R,S)-(pyrrolidin-1-yl)methyl-1,2,3,4-tetrahydroquinoline
A THF (15 ml) solution of oxalyl chloride (1.16 ml) was added dropwise to a THF (45 ml) solution of N-(9-fluorenylmethoxycarbonyl)-D-tryptophan (4.73 g) and DMF (0.1 ml) at 0° C. The reaction mixture was stirred at room temperature for 30 minutes, then concentrated. The residue was dissolved in ethyl acetate (30 ml), which was added dropwise to the mixture of an ethyl acetate (40 ml) solution of 3-(R,S)-(pyrrolidin-1-yl)methyl-1,2,3,4-tetrahydroquinoline (800 mg) and 20% aqueous sodium carbonate solution (40 ml), at 0° C. The reaction mixture was stirred at room temperature for one hour, and the organic layer was separated. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate/hexane=1:2 to 1:1), then concentrated. The residue was dissolved In methanol (60 ml). Piperidine (2 ml) was added to the mixture, which was stirred at room temperature for 12 hours. The reaction mixture was concentrated, and purified by alumina column chromatography (eluent: ethyl acetate/hexane=1:2 to ethyl acetate/methanol=20:1) to obtain the entitled compound (1.1 g) as an amorphous powder.

reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | oxalyl chloride | 1.16 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | THF | 45 ml | C1CCOC1 | C4H8O
reactant | N-(9-fluorenylmethoxycarbonyl)-D-tryptophan | 4.73 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C26H22N2O4
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
product | 1-[2-(R)-Amino-3-(indol-3-yl)propanoyl]-3-(R,S)-(pyrrolidin-1-yl)methyl-1,2,3,4-tetrahydroquinoline | 1.1 g | N[C@@H](C(=O)N1CC(CC2=CC=CC=C12)CN1CCCC1)CC1=CNC2=CC=CC=C12 | C25H30N4O
